US07345178B2
2-(3-Nitrophenyl)oxazolo[5,4-b]pyridine (600 mg, 2.49 mmol) was mixed with 25 mL of MeOH and 4 mL of water along with 837 mg of sodium hydrosulfide hydrate (14.9 mmol). The reaction mixture was stirred under reflux for 3 hours. It was then cooled to room temperature and concentrated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford 520 mg of 3-(oxazolo[5,4-b]pyridin-2-yl)benzenamine (quantitative crude yield) (MS, M++H=212).

reactant | 2-(3-Nitrophenyl)oxazolo[5,4-b]pyridine | 2.49 mmol, 600 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=NC=CC=C2N1 | C12H7N3O3
reactant | MeOH | 25 mL | CO | CH4O
reactant | sodium hydrosulfide hydrate | 14.9 mmol, 837 mg | O.[SH-].[Na+]
solvent | water | 4 mL | O | H2O
product | 3-(oxazolo[5,4-b]pyridin-2-yl)benzenamine | 520 mg | N1=C(OC2=NC=CC=C21)C=2C=C(C=CC2)N | C12H9N3O
